US08044041B2
A mixture of 5-ethoxymethyl-2-methyl-N-(2-pyrrolidin-1-yl-ethyl)-benzene-1,3-diamine hydrochloride (430 mg, 1.55 mmol), 1-chloro-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid and 4-chloro-1-oxo-1,2-dihydro-phthalazine-6-carboxylic acid (331 mg, 1.476 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (863 mg, 4.50 mmol), NEt3 (0.82 mL, 5.904), 1-hydroxybenzotriazole hydrate (259 mg, 1.919 mmol) and anhydrous DMF was stirred at room temperature for 2.5 h. The reaction mixture was filtered through celite, rinsed with CH2Cl2 and concentrated. Preparatory HPLC afforded 1-chloro-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid [5-ethoxymethyl-2-methyl-3-(2-pyrrolidin-1-yl-ethylamino)-phenyl]-amide formic acid salt (72 mg) as an orange solid.

reactant | 5-ethoxymethyl-2-methyl-N-(2-pyrrolidin-1-yl-ethyl)-benzene-1,3-diamine hydrochloride | 1.55 mmol, 430 mg | Cl.C(C)OCC=1C=C(C(=C(C1)NCCN1CCCC1)C)N
reactant | 1-chloro-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid | ClC1=NNC(C2=CC(=CC=C12)C(=O)O)=O | C9H5ClN2O3
reactant | 4-chloro-1-oxo-1,2-dihydro-phthalazine-6-carboxylic acid | 1.476 mmol, 331 mg | ClC1=NNC(C2=CC=C(C=C12)C(=O)O)=O | C9H5ClN2O3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4.50 mmol, 863 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 1.919 mmol, 259 mg | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | NEt3 | 0.82 mL | CCN(CC)CC | C6H15N
product | 1-chloro-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid [5-ethoxymethyl-2-methyl-3-(2-pyrrolidin-1-yl-ethylamino)-phenyl]-amide formic acid salt | 72 mg | C(=O)O.C(C)OCC=1C=C(C(=C(C1)NC(=O)C=1C=C2C(NN=C(C2=CC1)Cl)=O)C)NCCN1CCCC1 | InChI=1S/C25H30ClN5O3.CH2O2/c1-3-34-15-17-12-21(27-8-11-31-9-4-5-10-31)16(2)22(13-17)28-24(32)18-6-7-19-20(14-18)25(33)30-29-23(19)26;2-1-3/h6-7,12-14,27H,3-5,8-11,15H2,1-2H3,(H,28,32)(H,30,33);1H,(H,2,3)
